### PR TITLE
feat: valuation of an algebraic element

### PR DESCRIPTION
**Pull request by plp127**
We prove that if `x` is algebraic over `K` then there exists some `n ≠ 0` such that the valuation of `x` raised to the `n`-th power is equal to the valuation of some element of `K`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Valuation/Algebraic.lean [hunk 1]
```diff
@@ -0,0 +1,66 @@
...
+    simp_rw [u, Finset.mem_filter, smul_ne_zero_iff] at hiu
+    exact hiu.right.left
+  -- let `c` be the number that maximizes `v (p.coeff i • x ^ i)`
+  obtain ⟨c, hcu, hc⟩ := Finset.exists_max_image u (fun i => v (p.coeff i • x ^ i)) hue
+  replace hc (i : ℕ) (hi : i ∈ u \ {c}) : v (p.coeff i • x ^ i) < v (p.coeff c • x ^ c) := by
+    rw [Finset.mem_sdiff, Finset.mem_singleton, ← ne_eq] at hi
+    obtain ⟨hiu, hic⟩ := hi
+    apply lt_of_le_of_ne (hc i hiu)
+    -- from the assumption that `v x` is not the n-th root of any `v (algebraMap K A r)`,
+    -- we can derive that the `v (p.coeff i • x ^ i)` are all distinct
```
Comment (jjdishere) [inline Mathlib/RingTheory/Valuation/Algebraic.lean:53]: This statement could be extracted as a lemma.

File: Mathlib/RingTheory/Valuation/Algebraic.lean [hunk 2]
```diff
@@ -0,0 +1,66 @@
...
+the valuation of an element in the base field.
+-/
+
+namespace Valuation
+
+variable {K A Γ : Type*} [Field K] [Ring A] [Algebra K A] [IsDomain A]
+    [LinearOrderedCommGroupWithZero Γ] (v : Valuation A Γ)
+
+/-- If `x` is algebraic over `K`, then `v x` is an n-th root of some `v (algebraMap K A r)`. -/
+public theorem exists_pow_eq_of_isAlgebraic {x : A} (hx : IsAlgebraic K x) :
```
Comment (jjdishere) [inline Mathlib/RingTheory/Valuation/Algebraic.lean:26]: Please try to decompose some intermediate lemmas and make this proof cleaner.

The proof may go like this:
1. Since K is a field, there is a monic polynomial p annihilates x.
2. The highest term, x ^ n have a non zero valuation. (since v x is not zero.) (This should be a combination of several existed lemmas)
3. All terms in p(x) have different valuations. (This could be a lemma.)
4. Thus v(p(x)) = largest valuation among each term in p(x), is not zero.
